US07816395B2
2-Chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl][(2-methylphenyl)methyl]amino}benzonitrile
NaH (60% in mineral oil, 0.857 g, 21.4 mmol) was washed with pet ether (3×), suspended in DMF (50 mL), and cooled to 0° C. To this suspension was added a solution of 2-chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile (5.08 g, 20.0 mmol) and DMF (25 mL) dropwise over 20 min. After stirring at 0° C. for 30 min, this solution was added dropwise to a pre-cooled (0° C.) solution of 1-(iodomethyl)-2-methylbenzene (7.0 g, 30.0 mmol) in DMF (75 mL) over 30 min. The reaction was stirred at 0° C. for an additional 20 min and then poured into a solution of aq. NH4Cl (300 mL) and diethyl ether (300 mL). The layers were separated and the aqueous layer was extracted with Et2O (2×300 mL). The organic extracts were washed with H2O, aq. NaHSO3, dried over Mg2SO4, filtered, and concentrated. The oil was triturated with isopropanol (1 mL) and diethyl ether (75 mL) and the solid filtered to give the titled compound (5.4 g., 76%) as a white solid. LC-MS (ES) m/e 354.5 (M+H)+.

reactant | NaH | 21.4 mmol, 0.857 g | [H-].[Na+]
reactant | 2-chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl]amino}benzonitrile | 20.0 mmol, 5.08 g | ClC1=C(C#N)C=CC(=C1)N[C@@H]1CN(C(C1)=O)C | C12H12ClN3O
reactant | 1-(iodomethyl)-2-methylbenzene | 30.0 mmol, 7.0 g | ICC1=C(C=CC=C1)C | C8H9I
reactant | NH4Cl | 300 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 2-Chloro-4-{[(3S)-1-methyl-5-oxo-3-pyrrolidinyl][(2-methylphenyl)methyl]amino}benzonitrile | 5.4 g, 76% | ClC1=C(C#N)C=CC(=C1)N(CC1=C(C=CC=C1)C)[C@@H]1CN(C(C1)=O)C | C20H20ClN3O
